US05750525
345 mg (1.2 mmol) of 3-[(6-trifluoromethylquinoxaline-2,3-dion-1-yl)propionitrile is heated together with 407 mg (6.3 mmol) of sodium azide and 333 mg (6.3 mmol) of ammonium chloride in 13 ml of dimethylformamide for 3 hours to 120° C. bath temperature. After adding once more 203 mg (3.2 mmol) of sodium azide and 160 mg (3.1 mmol) of ammonium chloride, it is heated for 5 hours more to 120° C. bath temperature. After dilution with water and adjusting the pH to 2, it is extracted with ethyl acetate. During the shaking out with saturated common salt solution, the desired compound is precipitated from the organic phase. By concentration by evaporation of the organic phase and absorptive precipitation in ethyl acetate, another fraction is obtained. Altogether, 150 mg (37.8% of theory) of 2-[(6 trifluoromethylquinoxaline-2,3-dion-1-yl)ethyl]-tetrazole of melting point 279.8° C. is obtained.

reactant | (6-trifluoromethylquinoxaline-2,3-dion-1-yl)propionitrile | FC(C=1C=C2NC(C(N(C2=CC1)C(C#N)C)=O)=O)(F)F | C12H8F3N3O2
reactant | sodium azide | 6.3 mmol, 407 mg | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 6.3 mmol, 333 mg | [Cl-].[NH4+]
reactant | sodium azide | 3.2 mmol, 203 mg | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 3.1 mmol, 160 mg | [Cl-].[NH4+]
reactant | water | O | H2O
reactant | dimethylformamide | 13 ml | CN(C=O)C | C3H7NO
product | 2-[(6 trifluoromethylquinoxaline-2,3-dion-1-yl)ethyl]-tetrazole | 150 mg, 37.8% | FC(C=1C=C2NC(C(N(C2=CC1)CCN1N=CN=N1)=O)=O)(F)F | C12H9F3N6O2
